US04849007
Preparation of 2-(2,4-dichlorobenzoyl)-2-(2,4-dichlorophenyl)oxirane
With cooling and stirring, an ethereal diazomethane solution prepared from 3.1 g of nitrosomethylurea and aqueous sodium hydroxide solution in ether is added dropwise to a solution of 3.4 g of 2,2',4,4'-tetrachlorobenzil in 50 ml of dioxane. When the dropwise addition is complete, stirring is continued for 16 hours at room temperature, and the reaction mixture is then concentrated to dryness. The residual oil is crude 2-(2,4-dichlorobenzoyl)-2-(2,4-dichlorophenyl)oxirane which is purified by high vacuum distillation.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | nitrosomethylurea | 3.1 g | N(=O)CNC(=O)N | C2H5N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,2',4,4'-tetrachlorobenzil | 3.4 g | ClC1=C(C=CC(=C1)Cl)C(=O)C(=O)C1=C(C=C(C=C1)Cl)Cl | C14H6Cl4O2
solvent | ether | CCOCC | C4H10O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-(2,4-dichlorobenzoyl)-2-(2,4-dichlorophenyl)oxirane | ClC1=C(C(=O)C2(OC2)C2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C15H8Cl4O2
